US07655680B2
N-bromosuccinimide (0.95 g, 5.3 mmol) and a drop of hydrobromic acid were added to a solution of ethyl 2-benzoyl-4-bromo-4-pentenoate (1.5 g, 4.82 mmol) in acetonitrile (16 ml) and water (4 ml), followed by stirring at room temperature for 3 hours and 40 minutes. The reaction mixture was diluted with diethyl ether, and a 5% aqueous sodium thiosulfate solution was added to separate the mixture into layers. The organic layer was washed twice with a saturated aqueous sodium hydrogencarbonate solution, washed with a saturated salt solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1). The solvent was distilled off under reduced pressure, to thereby obtain 0.91 g (yield: 58%) of ethyl 2-benzoyl-5-bromo-4-oxopentenoate as a colorless oil.

reactant | N-bromosuccinimide | 5.3 mmol, 0.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrobromic acid | Br | BrH
reactant | ethyl 2-benzoyl-4-bromo-4-pentenoate | 4.82 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)CC(=C)Br | C14H15BrO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 2-benzoyl-5-bromo-4-oxopentenoate | 0.91 g, yield: 58% | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CC(CBr)=O | C14H13BrO4
